US08980877B2
(E)-3-[1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)acrylamide (102 mg, 0.203 mmol) in DCM (5 ml) was treated with 4 M HCl in dioxane (1 ml) as described in Example 30, Step C, giving (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hyroxy-acrylamide (85 mg, hydrochloride salt) as a light brown solid.

reactant | (E)-3-[1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)acrylamide | 0.203 mmol, 102 mg | CN1C=C(C2=CC=CC=C12)CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C29H31N3O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hyroxy-acrylamide | 85 mg | CN1C=C(C2=CC=CC=C12)CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO | C24H23N3O4
